US08492549B2
2-[1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidin-3-ylmethoxy]ethanol
Prepared from [1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidin-3-yl]methanol using the procedure described above for 2-[1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethylpiperidin-3-yl-methoxy]ethanol.

reactant | [1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidin-3-yl]methanol | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(C)CO | C16H23NO3
reactant | 2-[1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethylpiperidin-3-yl-methoxy]ethanol | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(CC)COCCO | C19H29NO4
product | 2-[1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidin-3-ylmethoxy]ethanol | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(C)COCCO | C18H27NO4
